US06897306B2
Methyl 2-[[(5-{(1R)-4-cyclohexyl-1-[2-(hydroxyamino)-2-oxoethyl]butyl}-1,2,4-oxadiazol-3-yl)carbonyl](methyl)amino]acetate
A solution of (3R)-6-cyclohexyl-3-(3-{[(2-methoxy-2-oxoethyl)(methyl)amino]carbonyl}-1,2,4-oxadiazol-5-yl)hexanoic acid (Preparation 39) (273 mg, 0.70 mmol)and N-methylmorpholine (85 μl, 0.77 mmol) in anhydrous dichloromethane (10 ml) was cooled to 0° C., treated with isobutyl chloroformate (100 μl, 0.77 mmol) and the resulting mixture was stirred under a nitrogen atmosphere for 30 minutes. O-(Trimethylsilyl)hydroxylamine (250 μl, 2.10 mmol) was then added and the mixture stirred under a nitrogen atmosphere for 1 hour, being allowed to warm to room temperature over this time. The mixture was then quenched with methanol (10 ml) and stirred for 10 minutes. The solvent was removed under reduced pressure and the residue partitioned between ethyl acetate and water. The layers were separated and the organic layer was sequentially washed with water and brine, dried over anhydrous sodium sulphate, filtered and the solvent removed under reduced pressure. The residue was purified by HPLCa to afford the title compound as a colourless oil (187 mg).

reactant | (3R)-6-cyclohexyl-3-(3-{[(2-methoxy-2-oxoethyl)(methyl)amino]carbonyl}-1,2,4-oxadiazol-5-yl)hexanoic acid | 0.70 mmol, 273 mg | C1(CCCCC1)CCC[C@H](CC(=O)O)C1=NC(=NO1)C(=O)N(C)CC(=O)OC | C19H29N3O6
reactant | N-methylmorpholine | 0.77 mmol, 85 μl | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.77 mmol, 100 μl | ClC(=O)OCC(C)C | C5H9ClO2
reactant | O-(Trimethylsilyl)hydroxylamine | 2.10 mmol, 250 μl | C[Si](ON)(C)C | C3H11NOSi
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | Methyl 2-[[(5-{(1R)-4-cyclohexyl-1-[2-(hydroxyamino)-2-oxoethyl]butyl}-1,2,4-oxadiazol-3-yl)carbonyl](methyl)amino]acetate | 187 mg | C1(CCCCC1)CCC[C@H](CC(=O)NO)C1=NC(=NO1)C(=O)N(CC(=O)OC)C | C19H30N4O6
